Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Zantac / omeprazole / Zoloft / valsartan / aspirin
 
Attending: ___.
 
Chief Complaint:
PCP: ___ MD 

CC:  ___
 
Major ___ or Invasive Procedure:
None
 
History of Present Illness:
I spoke to patient with help of ___ interpreter by phone. 
 
___ woman with a history of hypertension who was brought in to 
the ED by ambulance for lightheadedness, dizziness and 
difficulty ambulating. 
 
She reports that her symptoms first began on ___ when she 
stood up from her chair to walk to her kitchen and became 
lightheaded, felt warm, with sweating and then "my eyes starting 
getting dark", she felt like she was going to pass out so she 
went to sit back down in the chair but her arms gave out on her 
and she fell, striking the right side of her face. Eventually 
her symptoms resolved and she was able to go about her usual 
business. On ___ she just relaxed and did not do much 
activity but she reports feeling unwell with poor appetite and 
because she had lightheadedness and unsteadiness when standing 
she did not eat or drink much. She still did not seek care until 
this morning prior to admission, she stood up again to go to the 
kitchen and again started getting lightheaded with tunneled 
vision, feeling of warm, nausea and she had to lean on the wall 
to prevent herself from falling. She called an ambulance who 
brought her to the ED. She also reports than on ___ she 
began having pain with urination, increased urinary frequency 
which has continued over the last 2 days. She also reports 
nausea and urge to defecate when she gets lightheaded. She 
specifically denies chest pain or shortness of breath when this 
occurred. She denies and lightheadedness with exertion and these 
symptoms occurred only with standing from a seated or prone 
position, never occurring while walking. She denies 
palpitations, ___, orthopnea or PND. She denies focal muscle 
weakness or sensory losses. Denies headaches or vision changes. 
She also notes an intermittent dry cough the last few days. She 
denies any fevers or chills, no sick contact, no sputum 
production, No new medications aside from Amlodipine which was 
started in ___.
    
In the ED, initial vitals were:  97.5 70 136/58 19 98% RA. EKG 
was non-ischemic. Exam was notable for right ecchymosis superior 
cheek, 3mm laceration inferior to right lip. CT head without 
acute bleed, CT c-spine without frature or dislocation, neuro 
exam was non-focal. UA was dirry. She received 500ml NS IVFs and 
IV Ceftriaxone for presumed UTI and admitted to medicine.
  
On the floor, she is comfortable, appears well, is in good humor 
and asking when she can be DCd.   
 
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies shortness of breath. Denies chest pain or 
tightness, palpitations. No recent change in bowel habits. 
Denies arthralgias or myalgias. Otherwise ROS is negative.
 
Past Medical History:
HTN
Melanoma s/p resections
Anxiety
 
Social History:
___
Family History:
Mother had kidney disease
No cardiac disease in the family
 
Physical Exam:
PHYSICAL EXAM:  
Vitals: 98.3 PO 124 / 70 68 18 95 Ra 
Pain Scale: ___
General: Patient appears well, she is laying in bed but moves 
around with ease, intreractive, orientive, attentive, in good 
humor. 
HEENT: ecchymoses under right eye, laceration of right lower 
lip, EOMI, PERRL
Neck: supple, JVP low, no LAD appreciated
Lungs: Clear to auscultation bilaterally, moving air well and 
symmetrically, no wheezes, rales or rhonchi appreciated  
CV: Regular rate and rhythm, S1 and S2 clear and of good 
quality, no murmurs, rubs or gallops appreciated
Abdomen: soft, non-tender, non-distended, normoactive bowel 
sounds throughout, no rebound or guarding
Ext: Warm, well perfused, full distal pulses, no clubbing, 
cyanosis or edema    
Neuro: CN2-12 grossly in tact, motor and sensory function 
grossly intact in bilateral UE and ___, symmetric

Exam on discharge:
97.6 BP:157/82 HR:70 18 99 
General: Patient appears well, laying in bed in NAD 
HEENT: ecchymoses under right eye, EOMI, PERRL
Neck: supple, JVP low, no LAD appreciated
Lungs: Clear to auscultation bilaterally, moving air well and 
symmetrically, no wheezes, rales or rhonchi appreciated  
CV: Regular rate and rhythm, S1 and S2. III/VI systolic murmur 
at RUSB
Abdomen: soft, non-tender, non-distended, normoactive bowel 
sounds throughout, no rebound or guarding
Ext: Warm, well perfused, full distal pulses, no clubbing, 
cyanosis or edema    
Neuro: CN2-12 grossly intact
 
Pertinent Results:
Admission Labs:
___ 02:14PM BLOOD WBC-3.3*# RBC-4.29 Hgb-12.9 Hct-36.8 
MCV-86 MCH-30.1 MCHC-35.1 RDW-12.8 RDWSD-39.8 Plt ___
___ 02:14PM BLOOD Neuts-62.2 ___ Monos-14.0* 
Eos-0.0* Baso-0.3 Im ___ AbsNeut-2.04# AbsLymp-0.75* 
AbsMono-0.46 AbsEos-0.00* AbsBaso-0.01
___ 02:14PM BLOOD Glucose-104* UreaN-14 Creat-0.6 Na-127* 
K-3.2* Cl-88* HCO3-27 AnGap-15
___ 02:14PM BLOOD cTropnT-<0.01
___ 03:38PM BLOOD Lactate-1.4
 
Imaging:
CT Head: 
1. No evidence of acute intracranial abnormality. 
2. Paranasal sinus disease, with findings suggestive of acute 
sinusitis. 
 
CT C-Spine:
1. No evidence of fracture or traumatic malalignment. 
2. Mild degenerative changes in the cervical spine with 
multilevel mild spinal canal stenosis and mild-to-moderate 
neural foraminal stenosis at the C5-C6 vertebral level 
   
CXR:
No acute cardiopulmonary abnormality.  Unchanged tortuous aortic 
contour with prominence of the ascending aorta which again 
raises concern for underlying aortic stenosis. 
  
TTE ___:
The left atrium is normal in size. Left ventricular wall 
thicknesses and cavity size are normal. Due to suboptimal 
technical quality, a focal wall motion abnormality cannot be 
fully excluded. Overall left ventricular systolic function is 
normal (LVEF>55%). There is no aortic valve stenosis. No aortic 
regurgitation is seen. Mild (1+) mitral regurgitation is seen. 
There is mild pulmonary artery systolic hypertension. 

Urine culture:

___ 1:40 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 
      GRAM POSITIVE BACTERIA.    10,000-100,000 CFU/mL. 
         Alpha hemolytic colonies consistent with alpha 
streptococcus or
         Lactobacillus sp. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

 
Brief Hospital Course:
___ woman with a history of hypertension who was brought in to 
the ED by ambulance for lightheadedness, dizziness and 
difficulty ambulating most consistent with orthostatic 
hypotension.
     
# Syncope
# Likely Orthostatic hypotension
The patient presented with symptoms most consistent with 
orthostatic hypotension in setting of dehydration and urinary 
tract infection. She has no prior cardiac history, last TTE in 
___ with preserved LVEF and mild MR but otherwise no structural 
abnormalities. Her symptoms were preceded by a prodrome and have 
not occurred with exertion. She had no signs or symptoms of 
vertigo, central or peripheral and she specifically denies "the 
room spinning" via an interpreter. There are no focal neuro 
signs or symptoms, so primary neuro etiology to syncope also 
less likely. The patient's symptoms improved with IV fluid 
administration. The patient's antihypertensives were held on 
admission as she was normotensive. Her blood pressures improved 
and her home antihypertensives were resumed. Would consider 
getting Echo as outpatient given CXR read with possible aortic 
stenosis and systolic murmur on exam.
  
# Urinary Tract Infection
History of dysuria and urinary frequency. The patient was 
treated with IV ceftriaxone. Urine culture was + for 
pansensitive E. Coli. She will be transitioned to oral Cipro to 
complete a 7 day course. 
  
# Hyponatremia
The patient was found to be hyponatremic with sodium of 127 on 
admission. She was given IV fluids, her HCTZ was held and sodium 
returned to normal. Would recommend repeat 
   
# HTN
Historically poorly controlled and requiring 4 meds including 
HCTZ, CCB, ___ and BB. The patient had normal/low blood 
pressures in the setting of hypovolemia and UTI. With treatment 
of her infection and fluids her blood pressure improved. She 
will be discharged on all of her antihypertensives.

# Anxiety
Chronic, stable, related mostly to recent life stressors. Most 
concerned with her blood pressure.

Transitional issues:
- Antihypertensives resumed on discharge, would check BP and 
chemistries
- noted to have leukopenia, would repeat CBC as outpatient 
- Would consider Echo as outpatient
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. valsartan-hydrochlorothiazide 160-25 mg oral DAILY 
2. Fish Oil (Omega 3) 1000 mg PO DAILY 
3. Zolpidem Tartrate 10 mg PO QHS 
4. Metoprolol Succinate XL 25 mg PO DAILY 
5. amLODIPine 2.5 mg PO DAILY 
6. Multivitamins W/minerals 1 TAB PO DAILY 
7. TraMADol 50 mg PO TID:PRN Pain - Moderate 
8. diclofenac sodium 1 % topical DAILY 
9. Calcium 500 + D (D3) (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -125 unit oral DAILY 
10. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*8 Tablet Refills:*0 
2.  amLODIPine 2.5 mg PO DAILY  
3.  Calcium 500 + D (D3) (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -125 unit oral DAILY  
4.  diclofenac sodium 1 % topical DAILY  
5.  Fish Oil (Omega 3) 1000 mg PO DAILY  
6.  Metoprolol Succinate XL 25 mg PO DAILY  
7.  Multivitamins W/minerals 1 TAB PO DAILY  
8.  TraMADol 50 mg PO TID:PRN Pain - Moderate  
9.  valsartan-hydrochlorothiazide 160-25 mg oral DAILY  
10.  Vitamin D ___ UNIT PO DAILY  
11.  Zolpidem Tartrate 10 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Urinary tract infection
Syncope
Hyponatremia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Ms. ___,

It was a pleasure taking care of you during your admission to 
___.  You were admitted with weakness and found to have a 
Urinary tract infection, low sodium levels and low blood 
pressure. You were given intravenous fluids and antibiotics with 
improvement. Your blood pressure medications were held when you 
were admitted but were restarted once your blood pressure 
improved.

You will be discharged on antibiotics for your urinary tract 
infection. Please follow up with your PCP in the next week for a 
blood pressure check and to have your laboratory studies checked 
to makes sure your sodium is normal.

We wish you the best,
Your ___ Care team
 
Followup Instructions:
___